US09062070B2
Step C: methyl 2-amino-5,6,7,8-tetrahydroquinoline-5-carboxylate
Methyl 5,6,7,8-tetrahydroquinoline-5-carboxylate-1-oxide (2.05 g, 9.89 mmol) and t-butyl amine (5.22 mL, 49.5 mmol) were dissolved in benzotrifluoride (50 ml) and cooled with an ice bath. The p-toluenesulfonic anhydride (6.46 g, 19.79 mmol) was added portionwise keeping the reaction's internal temperature below 5° C. The reaction was monitored and after 10 mins when the LC-MS showed M+1=263 and 207 (M-56) at 1.20 indicating formation of intermediate methyl 2-(tert-butylamino)-5,6,7,8-tetrahydroquinoline-5-carboxylate. TFA (10 mL) was then added to the reaction mixture and heated at 70° C. for 5 hrs. The reaction was cooled and evaporated to dryness. The residue was taken up with water and the pH was adjusted to ˜8 with 5N NaOH. The reaction was extracted 2× with DCM. The combined DCM layers were washed with brine and dried over Na2SO4, filtered and evaporated to dryness. The residue was chromatographed through an 80 g ISCO Redi-sep column and eluted with solvent system of 5% (10% NH4OH in MeOH)/DCM to yield the title compound: LC-MS: M+1=207.

reactant | Methyl 5,6,7,8-tetrahydroquinoline-5-carboxylate-1-oxide | 9.89 mmol, 2.05 g | [N+]1(=CC=CC=2C(CCCC12)C(=O)OC)[O-] | C11H13NO3
reactant | t-butyl amine | 49.5 mmol, 5.22 mL | C(C)(C)(C)N | C4H11N
reactant | p-toluenesulfonic anhydride | 19.79 mmol, 6.46 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | methyl 2-(tert-butylamino)-5,6,7,8-tetrahydroquinoline-5-carboxylate | C(C)(C)(C)NC1=NC=2CCCC(C2C=C1)C(=O)OC | C15H22N2O2
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | benzotrifluoride | 50 ml | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
product | methyl 2-amino-5,6,7,8-tetrahydroquinoline-5-carboxylate | NC1=NC=2CCCC(C2C=C1)C(=O)OC | C11H14N2O2
